US05037824
To a solution of thionyl chloride (0.29 g) in methylene chloride (5 ml) was added N,N-dimethylformamide (0.18 g) at 10° C. and the mixture was stirred at the same temperature for 1 hour. Thereto was added 2,6-dimethyl-4-(3-cyanophenyl)-3-pyridinecarboxylic acid (0.505 g) at 10° C. and the mixture was stirred at ambient temperature for 1 hour. To the resulting mixture was added dropwise a solution of 2-morpholinoethylamine (0.62 g) in methylene chloride (2 ml) at 10° C. The mixture was stirred at the same temperature for 1.5 hours, diluted with methylene chloride (10 ml) and a saturated aqueous solution of sodium bicarbonate (10 ml). The separated organic layer was washed with water and brine, dried and concentrated under reduced pressure. The residue was purified by column chromatography on silica gel (20 g) eluting with a mixture of chloroform and methanol (25:1 V/V). The fractions containing the desired compound were combined and concentrated in vacuo. The residue was tritulated with diethyl ether to give 4-(3-cyanophenyl)-2,6-dimethyl-3-(2-morpholinoethylcarbamoyl)pyridine (0.33 g).

reactant | thionyl chloride | 0.29 g | S(=O)(Cl)Cl | Cl2OS
reactant | 2,6-dimethyl-4-(3-cyanophenyl)-3-pyridinecarboxylic acid | 0.505 g | CC1=NC(=CC(=C1C(=O)O)C1=CC(=CC=C1)C#N)C | C15H12N2O2
reactant | 2-morpholinoethylamine | 0.62 g | O1CCN(CC1)CCN | C6H14N2O
reactant | sodium bicarbonate | 10 ml | C([O-])(O)=O.[Na+]
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 2 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
solvent | N,N-dimethylformamide | 0.18 g | CN(C=O)C | C3H7NO
product | 4-(3-cyanophenyl)-2,6-dimethyl-3-(2-morpholinoethylcarbamoyl)pyridine | 0.33 g | C(#N)C=1C=C(C=CC1)C1=C(C(=NC(=C1)C)C)C(NCCN1CCOCC1)=O | C21H24N4O2
